US07320995B2
C. N-[methyl] N-[methoxy] 3-(isopropylsulfonyl)amino-4-aminobenzamide
Add dry pyridine (234 mL, 2.94 moles) to a cold (0° C.) solution of N-[methyl] N-[methoxy] 3,4-diaminobenzamide (135 g, 0.69 moles) in 1 liter of dry dichloromethane under a nitrogen atomosphere. Add isopropylsulfonyl chloride (85.4 mL, 0.76 moles) at 0° C. over 30 minutes, stir the mixture 0° C. for another 30 minutes, and then at room temperature overnight. Concentrate the reaction mixture under reduced pressure and partition the residue with diethyl ether (1 L) and 5 N hydrochloric acid (1 L). Separate the layers, discard the diethyl ether layer, add ethyl acetate (1.5 L) to the aqueous layer and stir while adding solid sodium carbonate until pH=6.5. Extract the aqueous layer using ethyl acetate, wash the combined organic layers, dry over magnesium sulfate and concentrate under reduced pressure. Subject the residue to silica gel chromatography eluting with a gradient 65:3 ethyl acetate:hexane to 100% ethyl acetate to provide a 40% yield of the desired compound.

reactant | pyridine | 2.94 moles, 234 mL | N1=CC=CC=C1 | C5H5N
reactant | N-[methyl] N-[methoxy] 3,4-diaminobenzamide | 0.69 moles, 135 g | CN(C(C1=CC(=C(C=C1)N)N)=O)OC | C9H13N3O2
reactant | isopropylsulfonyl chloride | 0.76 moles, 85.4 mL | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | hexane | CCCCCC | C6H14
solvent | dichloromethane | 1 liter | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[methyl] N-[methoxy] 3-(isopropylsulfonyl)amino-4-aminobenzamide | 40% yield | CN(C(C1=CC(=C(C=C1)N)NS(=O)(=O)C(C)C)=O)OC | C12H19N3O4S
